US04103086
3-t-Butoxycarbonylamino-4-oxo-2-mercaptomethylazetidine
To a solution of 335 mg (0.95 mmole) of 3-t-butoxycarbonylamino-4-oxo-2-(p-methoxybenzylthiomethyl)-azetidine in 5 ml of methanol and 20 ml of methylene chloride is added 1.7 g (5.3 mmole) of mercuric acetate. The mixture is stirred 24 hours under argon, diluted with excess ether and the precipitated mercury adduct filtered and wshed well with ether. The mercury complex is suspended in water, layered with ethyl acetate and hydrogen sulfide gas is passed through the mixture for 1 hour. The mercuric sulfide is removed by filtration, the ethyl acetate layer is separated and washed with brine, dried over magnesium sulfate and evaorated to dryness. Trituration of the residue with 1:1 ethyl acetate-hexane gives 122 mg (55%) of the crystalline title product.

reactant | 3-t-butoxycarbonylamino-4-oxo-2-(p-methoxybenzylthiomethyl)-azetidine | 0.95 mmole, 335 mg | C(C)(C)(C)OC(=O)NC1C(NC1=O)CSCC1=CC=C(C=C1)OC | C17H24N2O4S
solvent | methanol | 5 ml | CO | CH4O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 3-t-Butoxycarbonylamino-4-oxo-2-mercaptomethylazetidine | 122 mg, 55% | C(C)(C)(C)OC(=O)NC1C(NC1=O)CS | C9H16N2O3S
